US08283354B2
2-(7-Methyl-4-(piperazin-1-yl)quinazolin-2-yl)phenol (87 mg, 0.27 mmol), (S)-2-hydroxy-3-(1H-imidazol-5-yl)propanoic acid (64 mg, 0.41 mmol), triethylamine (76 μL, 0.54 mmol), and BOP (180 mg, 0.41 mmol) in 1 mL of CH2Cl2 were stirred at room temperature for 1.5 h. The reaction mixture was diluted with H2O and CH2Cl2. The organic layer was dried over Na2SO4 and concentrated. Purification using 1-15% MeOH in CH2Cl2 gave (S)-2-hydroxy-1-(4-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)-3-(1H-imidazol-5-yl)propan-1-one. LC/MS: m/z 459.3 (M+H)+ at 2.13 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 2-(7-Methyl-4-(piperazin-1-yl)quinazolin-2-yl)phenol | 0.27 mmol, 87 mg | CC1=CC=C2C(=NC(=NC2=C1)C1=C(C=CC=C1)O)N1CCNCC1 | C19H20N4O
reactant | (S)-2-hydroxy-3-(1H-imidazol-5-yl)propanoic acid | 0.41 mmol, 64 mg | O[C@H](C(=O)O)CC1=CN=CN1 | C6H8N2O3
reactant | triethylamine | 0.54 mmol, 76 μL | C(C)N(CC)CC | C6H15N
reactant | BOP | 0.41 mmol, 180 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | (S)-2-hydroxy-1-(4-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)-3-(1H-imidazol-5-yl)propan-1-one | O[C@H](C(=O)N1CCN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O)CC1=CN=CN1 | C25H26N6O3
